US07875639B2
3-Methyl-1,3-benzothiazol-2(3H)-ylideneamine hydroiodide
Benzothiazol-2-ylamine (1.0 g, 6.6 mmol) and methyl iodide (0.48 mL, 7.9 mmol) were processed as described in Example 46A to provide 1.2 g (60%) of the title compound. 1H NMR (DMSO-d6, 300 MHz) δ ppm 3.73 (s, 3 H), 7.39-7.47 (m, 1 H), 7.59 dt, J=7.8, 1.0 Hz, 1 H), 7.65-7.71 (m, 1 H), 7.99 (d, J=8.1 Hz, 1 H), 9.99 (s, 2 H); MS (DCI/NH3) m/z 165 (M+H)+.

reactant | Benzothiazol-2-ylamine | 6.6 mmol, 1.0 g | S1C(=NC2=C1C=CC=C2)N | C7H6N2S
reactant | methyl iodide | 7.9 mmol, 0.48 mL | CI | CH3I
product | 3-Methyl-1,3-benzothiazol-2(3H)-ylideneamine hydroiodide | 1.2 g, 60% | I.CN1C(SC2=C1C=CC=C2)=N | InChI=1S/C8H8N2S.HI/c1-10-6-4-2-3-5-7(6)11-8(10)9;/h2-5,9H,1H3;1H
